US07838675B2
N-{2-[(2,3-Difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-1,4-diazepane-1-sulfonamide
A solution of tert-Butyl 4-[({2-[(2,3-difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}amino)sulfonyl]-1,4-diazepane-1-carboxylate (the product of step i, 0.22 g) in 1:1 TFA:methanol (6 ml) was stirred at room temperature for 3 h then the volatiles evaporated and 7M ammonia in methanol (5 ml) added to the residue. The solution was stirred for 30 min then the volatiles evaporated and the resulting solid washed with methanol, DCM, dimethyl sulfoxide and H2O to afford the title compound as a white powder. Yield: δ 1 mg

reactant | tert-Butyl 4-[({2-[(2,3-difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}amino)sulfonyl]-1,4-diazepane-1-carboxylate | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCN(CCC2)C(=O)OC(C)(C)C)OC)C=CC=C1F | C22H29F2N5O5S2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methanol | 6 ml | CO | CH4O
product | N-{2-[(2,3-Difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-1,4-diazepane-1-sulfonamide | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCNCCC2)OC)C=CC=C1F | C17H21F2N5O3S2
